US07504513B2
In a similar manner as described for Example 26, 4-bromo-2-(5,6-dimethoxy-benzoimidazol-1-yl)-thiazole-5-carboxylic acid methyl ester (40 mg, 0.1 mmol) and 1-naphthaleneboronic acid (25.8 mg, 0.15 mmol) gave 2-(5,6-Dimethoxy-benzoimidazol-1-yl)-4-naphthalen-1-yl-thiazole-5-carboxylic acid (15.9 mg, 37%) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 13.41 (br.s., 1 H); 8.85 (s, 1 H); 8.01-8.09 (m, 2H); 7.92 (dd, 1 H); 7.72 (dd, 1 H); 7.69 (s, 1H); 7.50-7.65 (m, 3H); 7.40 (s, 1 H); 3.84 (s, 3 H); 3.68 (s, 3 H). MS m/z 432 (M+1).

reactant | 4-bromo-2-(5,6-dimethoxy-benzoimidazol-1-yl)-thiazole-5-carboxylic acid methyl ester | 0.1 mmol, 40 mg | COC(=O)C1=C(N=C(S1)N1C=NC2=C1C=C(C(=C2)OC)OC)Br | C14H12BrN3O4S
reactant | 1-naphthaleneboronic acid | 0.15 mmol, 25.8 mg | C1(=CC=CC2=CC=CC=C12)B(O)O | C10H9BO2
product | 2-(5,6-Dimethoxy-benzoimidazol-1-yl)-4-naphthalen-1-yl-thiazole-5-carboxylic acid | 15.9 mg, 37% | COC1=CC2=C(N(C=N2)C=2SC(=C(N2)C2=CC=CC3=CC=CC=C23)C(=O)O)C=C1OC | C23H17N3O4S
